US04401765
(a) Preparation of Thyroxine-Catalase Conjugate
1.23 g (1.4 mmoles) of N-(tert-butoxy)-L-thyroxine and 0.16 g (1.4 mmoles) of N-hydroxysuccinimide are dissolved in 20 mL dimethylformamide. 0.31 g (1.5 mmoles) of dicyclohexyl carbodiimide is added to the solution which is then stirred at room temperature for 18 h. The urea precipitated during the reaction is removed by filtration and the filtrate, containing the active ester, is stored at -20° C.

reactant | N-(tert-butoxy)-L-thyroxine | 1.4 mmoles, 1.23 g | C(C)(C)(C)ON[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C19H19I4NO5
reactant | N-hydroxysuccinimide | 1.4 mmoles, 0.16 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexyl carbodiimide | 1.5 mmoles, 0.31 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Thyroxine | N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C15H11I4NO4
